US08791133B2
4-{(E)-2-[5-(3-Fluorophenyl)pyridin-2-yl]vinyl}-7,7-dimethyl-5-oxo-4,5,6,7,8,9-hexahydro-1H-pyrazolo[3,4-b]quinoline-3-cyclopropylmethylcarboxamide
According to general procedure A, a mixture of 50 mg of (E)-3-[5-(3-fluorophenyl)pyridin-2-yl]propenal, 40 mg of 5-amino-1H-pyrazole-3-cyclopropylmethylcarboxamide, 31 mg of dimedone and 5 ml of ethanol is boiled under reflux for 2 hours. After cooling, the mixture is concentrated and purified by column chromatography (silica gel, methanol:DCM=5:95).

reactant | (E)-3-[5-(3-fluorophenyl)pyridin-2-yl]propenal | 50 mg | FC=1C=C(C=CC1)C=1C=CC(=NC1)/C=C/C=O | C14H10FNO
reactant | 5-amino-1H-pyrazole 3-cyclopropylmethylcarboxamide | 40 mg | NC1=CC=NN1.C1CC1CC(=O)N
reactant | dimedone | 31 mg | CC1(CC(=O)CC(=O)C1)C | C8H12O2
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 4-{(E)-2-[5-(3-Fluorophenyl)pyridin-2-yl]vinyl}-7,7-dimethyl-5-oxo-4,5,6,7,8,9-hexahydro-1H-pyrazolo[3,4-b]quinoline 3-cyclopropylmethylcarboxamide | FC=1C=C(C=CC1)C=1C=CC(=NC1)/C=C/C1C2=C(NC=3CC(CC(C13)=O)(C)C)NN=C2.C1CC1CC(=O)N | InChI=1S/C25H23FN4O.C5H9NO/c1-25(2)11-21-23(22(31)12-25)19(20-14-28-30-24(20)29-21)9-8-18-7-6-16(13-27-18)15-4-3-5-17(26)10-15;6-5(7)3-4-1-2-4/h3-10,13-14,19H,11-12H2,1-2H3,(H2,28,29,30);4H,1-3H2,(H2,6,7)/b9-8+;
